* C:\Users\Lucas\Documents\Actualmente Usando\Teoría de Circuitos\TP6\EJ3\Simulación\AcondicionamientoLineal.asc
V1 +VCC 0 15
V2 0 -VCC 15
V3 Vi 0 PULSE(0 5 0.001m 10m 0.001m 0.001m 10m 5)
R8 Vo N004 18k
R9 0 N004 10k
XU3 N003 N004 +VCC -VCC Vo TL08X
R10 N003 N002 18k
R11 N003 Vi 10k
XU4 N001 N002 +VCC -VCC N002 TL08X
R12 +VCC N001 330k
R13 N001 0 24k
.tran 0 50m 10m 0.01m
.lib Opamps_Comparators_ST.lib
.lib 2N7000.nxp.lib
.backanno
.end
