* C:\Users\Lucas\Documents\Actualmente Usando\Teoría de Circuitos\TP6\EJ3\Simulación\VCO.asc
XU1 N008 N001 +VCC -VCC N002 TL08X
R1 N001 N006 1000
R2 N008 N006 10k
R3 0 N008 10k
V1 +VCC 0 15
V2 0 -VCC 15
XM1 N011 N012 0 2N7000
R4 N001 N011 500
C1 N002 N001 100n
XU2 N010 N002 +VCC -VCC N009 TL08X
R5 N009 N010 15k
R6 0 N010 10k
V3 Vi 0 0
R7 N009 N012 330k
R8 N006 N007 10k
R9 0 N007 10k
XU3 N005 N007 +VCC -VCC N006 TL08X
R10 N005 N004 10k
R11 N005 Vi 10k
XU4 N003 N004 +VCC -VCC N004 TL08X
R13 +VCC N003 20k
R12 N003 0 10k
.tran 0 20m 10m 0.01m
.lib Opamps_Comparators_ST.lib
.lib 2N7000.nxp.lib
.backanno
.end
