* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP6\EJ1\Simulación\wien_oscilator.asc
R1 N001 0 2k
R2 N002 P001 2k
R3 N002 N003 100k
R4 N005 N003 47k
R5 0 N006 1Meg
XU1 N001 N003 +Vcc -Vcc N002 TL08X
C2 N001 0 1n
C3 P001 N001 1n
D1 N004 N002 1N4148
D2 N004 N006 1N5230BC
J1 N005 N006 0 MPF102
V1 +Vcc 0 15
V2 -Vcc 0 -15
C1 N006 0 1µ
.model D D
.lib C:\Users\facun\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NJF NJF
.model PJF PJF
.lib C:\Users\facun\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.jft
.lib Opamps_Comparators_ST.lib
.tran 0 50.1m 0 10u
.model MPF102   NJF(Beta=1.04m Betatce=-.5 Rd=1 Rs=1 Lambda=2m Vto=-3.41
+                               Vtotc=-2.5m Is=33.57f Isr=322.4f N=1 Nr=2 Xti=3 Alpha=311.7u
+                               Vk=243.6 Cgd=1.6p M=.3622 Pb=1 Fc=.5 Cgs=2.414p Kf=11.73E-18
+                               Af=1)
*                               National        pid=50                          case=TO92
*                               88-08-02 rmn    BVmin=25
.model 1N5230BC D(Is=1.5n Rs=.5 Cjo=190p nbv=13 bv=4.2 Ibv=10m Vpk=6.2 mfg=CA112310 type=zener6_2V)
.backanno
.end
